US09260427B2
Prepared using General Procedures 18: To 4-benzyl 1-(tert-butyl) ((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-L-aspartate (50 mg, 0.058 mmol) in THF (2 mL) was added 10% Pd/C (10 mg). The reaction vessel was flushed with hydrogen gas and the reaction was stirred vigorously under hydrogen for 2 h at room temperature. The reaction mixture was filtered to remove the catalyst and the solvent was removed to give 38 mg (86%) of (S)-4-(tert-butoxy)-3-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)-4-oxobutanoic acid INT-31 as a white solid. LCMS-ESI (m/z) calculated for C45H56N4O7: 764.4. found 765.4 [M+H]+, tR=4.24 min (Method 16).

reactant | 4-benzyl 1-(tert-butyl) ((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-L-aspartate | 0.058 mmol, 50 mg | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)N[C@@H](CC(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C52H62N4O7
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (S)-4-(tert-butoxy)-3-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)-4-oxobutanoic acid | 38 mg, 86% | C(C)(C)(C)OC([C@H](CC(=O)O)NC([C@H](CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O)=O | C45H56N4O7
